US04798893
B. 1-[5-Methoxy-2-(phenylethynyl)phenyl]-2-propanone (Formula (I): R1, R2 =H, R3 =Ac, Ar1 =phenyl)
3-Acetyl-3a,7a-dihydro-7a-(phenylethynyl)benzofuran-2,5(3H,4H)dione, (1.75 g 6 mmole), pyridinium chloride (1.5 g, 13 mmole) and MeOH (50 mL) were placed in a 100 mL round bottomed flask and heated at reflux for 2 hr. The solvent was removed under reduced pressure and the residue was partitioned between Et2O and water. The ether phase was washed with 3N hydrochloric acid, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was recrystallized from ethanol (10 mL) to give 0.8 g (50%) of the title compound as a light yellow solid, m.p. 63°-65° C.

reactant | 3-Acetyl-3a,7a-dihydro-7a-(phenylethynyl)benzofuran-2,5(3H,4H)dione | 6 mmole, 1.75 g | C(C)(=O)C1C(OC2(C1CC(C=C2)=O)C#CC2=CC=CC=C2)=O | C18H14O4
reactant | pyridinium chloride | 13 mmole, 1.5 g | [Cl-].[NH+]1=CC=CC=C1
solvent | MeOH | 50 mL | CO | CH4O
product | 1-[5-Methoxy-2-(phenylethynyl)phenyl]-2-propanone | 0.8 g, 50% | COC=1C=CC(=C(C1)CC(C)=O)C#CC1=CC=CC=C1 | C18H16O2
